US05131946
3-(2-Chlorophenylimino)hexahydro-3H-thiazolo[3.4-a]pyridine (process C)
1 g 1-(2-Chlorophenylthiocarbamoyl)-2-hydroxymethylpiperidine in 20 ml 48% hydrobromic acid was heated under reflux for 2 hours. The mixture was then neutralised under cooling with 2N caustic soda, extracted with methylene chloride, the extracts dried over magnesium sulphate and the solvent distilled. The residue was recrystallised from diisopropyl ether.

reactant | 1-(2-Chlorophenylthiocarbamoyl)-2-hydroxymethylpiperidine | 1 g | ClC1=C(C=CC=C1)NC(=S)N1C(CCCC1)CO | C13H17ClN2OS
reactant | caustic soda | 2N | [OH-].[Na+]
solvent | hydrobromic acid | 20 ml | Br | BrH
product | 3-(2-Chlorophenylimino)hexahydro-3H-thiazolo[3.4-a]pyridine | ClC1=C(C=CC=C1)N=C1SCC2N1CCCC2 | C13H15ClN2S
